US04791127
Synthesis Example 11: Preparation of 2-isopropylthio-4-methylsulfonyloxy-5-chloro-1,3-thiazole (No. 230):
3.5 g of 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole (No. 171) was dissolved in 50 ml of methylene chloride. 2 g of sulfuryl chloride was added dropwise to the solution keeping the temperature below 0° C., followed by stirring at room temperature for 2 hours. Then, 20% aqueous solution of sodium carbonate was added to the reaction mixture to cease the reaction, and the methylene chloride layer was separated and washed with water, followed by drying over anhydrous sodium sulfate. The oil obtained by concentration was purified by silica-gel column chromatography to 2 g of the objective compound as a pale yellow oil (yield: 50.4%).

reactant | 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole | 3.5 g | C(C)(C)SC=1SC=C(N1)OS(=O)(=O)C | C7H11NO3S3
reactant | sulfuryl chloride | 2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-isopropylthio-4-methylsulfonyloxy-5-chloro-1,3-thiazole | 2 g, yield: 50.4% | C(C)(C)SC=1SC(=C(N1)OS(=O)(=O)C)Cl | C7H10ClNO3S3
